US07452895B2
1-(2-{4-[3-Methyl-4-(6-methylpyridin-3-yloxy)-phenylamino]-quinazolin-6-ylamino}-1-oxa-3,8-diaza-spiro[4.5]dec-2-en-8-yl)-ethanone is prepared from 2-{4-[3-methyl-4-(6-methylpyridin-3-yloxy)-phenylamino]-quinazolin-6-ylamino}-1-oxa-3,8-diazaspiro[4.5]dec-2-ene-8-carboxylic acid tert-butyl ester by standard BOC deprotection methods using TFA in methylene chloride followed by standard acetylation methods using acetic anhydride in a mixture of pyridine and methylene chloride. MS ESI (+) m/z 538 (M+1) detected; 1H NMR (400 mHz, CDCl3) δ 8.68 (s, 1H), 8.28 (d, 1H), 7.83 (d, 1H), 7.64 (s, 1H), 7.52 (d, 2H), 7.48 (d, 2H), 7.12 (m, 3H), 6.93 (d, 1H), 3.69 (m, 2H), 2.53 (s, 3H), 2.29 (s, 3H), 2.14 (s, 3H), 2.02 (m, 2H), 1.78 (m, 2H), 1.30 (m, 2H), 0.87 (m, 2H).

reactant | 2-{4-[3-methyl-4-(6-methylpyridin-3-yloxy)-phenylamino]-quinazolin-6-ylamino}-1-oxa-3,8-diazaspiro[4.5]dec-2-ene-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CN=C(O2)NC=2C=C3C(=NC=NC3=CC2)NC2=CC(=C(C=C2)OC=2C=NC(=CC2)C)C)CC1 | C33H37N7O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-(2-{4-[3-Methyl-4-(6-methylpyridin-3-yloxy)-phenylamino]-quinazolin-6-ylamino}-1-oxa-3,8-diaza-spiro[4.5]dec-2-en-8-yl)-ethanone | CC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC1=NC=NC2=CC=C(C=C12)NC=1OC2(CN1)CCN(CC2)C(C)=O | C30H31N7O3
